US07098202B2
Preparation of 3(S)-[N-(t-butoxycarbonyl)-N-benzylamino]-1,2-(S)-epoxy-4-phenylbutane
To a suspension of 0.90 g (4.42 mmoles) of trimethylsulfonium iodide in 18 mL of acetonitrile was added 0.495 g (4.42 mmoles) of potassium t-butoxide. A solution of 1.0 g (2.95 mmoles) of N-(t-butoxycarbonyl)-N-benzyl-L-phenylalaninal in 7 mL of acetonitrile was added and the mixture was stirred at room temperature for one hour. The mixture was diluted with 80 mL of water and extracted twice with 80 mL of ethyl acetate. The organic layers were combined and washed with 100 mL water, 30 mL brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to give 1.04 g of a yellow crude oil. The crude product was a mixture of the two diastereomers N,αS-bis(phenylmethyl)-N-(t-butoxycarbonyl)-2S-oxiranemethanamine and N,αS-bis(phenylmethyl)-N-(t-butoxycarbonyl)-2R-oxiranemethanamine.

reactant | trimethylsulfonium iodide | 4.42 mmoles, 0.90 g | [I-].C[S+](C)C
reactant | potassium t-butoxide | 4.42 mmoles, 0.495 g | CC(C)([O-])C.[K+]
reactant | N-(t-butoxycarbonyl)-N-benzyl-L-phenylalaninal | 2.95 mmoles, 1.0 g | C(C)(C)(C)OC(=O)N([C@@H](CC1=CC=CC=C1)C=O)CC1=CC=CC=C1 | C21H25NO3
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | water | 80 mL | O | H2O
product | 3(S)-[N-(t-butoxycarbonyl)-N-benzylamino]-1,2-(S)-epoxy-4-phenylbutane | 1.04 g | C(C)(C)(C)OC(=O)N(CC1=CC=CC=C1)[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C22H27NO3
